US07192967B1
N-[4-(5-benzyliden-2,4-dioxothiazolidin-3-yl)-butyl]-3-pyridin-3-yl-acrylamide (substance 23)
Batch size: 13.5 g (61.3 mmol) N-(4-hydroxybutyl)-3-pyridin-3-yl-acrylamide, 16.1 g (61.3 mmol) triphenylphosphine, 12.6 g (61.3 mmol) 5-benzyliden-thiazolidin-2,4-dione and 9.7 ml (61.3 mmol) azodicarboxylic acid diethyl ester in 250 ml THF.

reactant | N-(4-hydroxybutyl)-3-pyridin-3-yl-acrylamide | 61.3 mmol, 13.5 g | OCCCCNC(C=CC=1C=NC=CC1)=O | C12H16N2O2
reactant | triphenylphosphine | 61.3 mmol, 16.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-benzyliden-thiazolidin-2,4-dione | 61.3 mmol, 12.6 g | C(C1=CC=CC=C1)=C1C(NC(S1)=O)=O | C10H7NO2S
reactant | azodicarboxylic acid diethyl ester | 61.3 mmol, 9.7 ml | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | N-[4-(5-benzyliden-2,4-dioxothiazolidin-3-yl)-butyl]-3-pyridin-3-yl-acrylamide | C(C1=CC=CC=C1)=C1C(N(C(S1)=O)CCCCNC(C=CC=1C=NC=CC1)=O)=O | C22H21N3O3S
